US05633384
To a 500 ml four-necked flask equipped with a stirrer, a thermometer, and a condenser, 29.8 g (0.2 mol) of 2-(methylthio)benzonitrile, 100 g of monochlorobenzene, and 4.32 g (0.24 mol) of water were added. To the flask, 29.7 g (0.22 mol) of sulfuryl chloride was added with stirring at a temperature of from 5° to 15° C., heated to a temperature of from 70° to 80° C., and allowed to react for 1 hour. After the completion of the reaction, the reaction mixture was cooled to room temperature to precipitate white crystals. The white crystals were washed with monochlorobenzene, and dried to give 29.0 g of 1,2-benzisothiazol-3-one (melting point: 157° to 158° C.). The yield of the product was 96% against the starting 2-(methylthio)benzonitrile.

reactant | 2-(methylthio)benzonitrile | 0.2 mol, 29.8 g | CSC1=C(C#N)C=CC=C1 | C8H7NS
reactant | water | 0.24 mol, 4.32 g | O | H2O
reactant | sulfuryl chloride | 0.22 mol, 29.7 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | monochlorobenzene | 100 g | ClC1=CC=CC=C1 | C6H5Cl
product | 1,2-benzisothiazol-3-one | 29.0 g | S1NC(C2=C1C=CC=C2)=O | C7H5NOS
